US08008307B2
Step d: {(1S,2S,4R)-4-[(5-fluoro-6-{[(1R,2S)-2-methoxy-2,3-dihydro-1H-inden-1-yl]amino}-pyrimidin-4-yl)oxy]-2-hydroxycyclopentyl}methyl sulfamate (Compound I-83)
To a stirred solution of {(1S,2S,4R)-2-{[tert-butyl(dimethyl)silyl]oxy}-4-[(5-fluoro-6-{[(1R,2S)-2-methoxy-2,3-dihydro-1H-inden-1-yl]amino}pyrimidin-4-yl)-oxy]cyclopentyl}methanol (190 mg, 0.36 mmol) in THF (5.40 mL) was added triethylamine (0.08 mL, 0.54 mmol) and [(diphenylamino)carbonyl]sulfamoyl chloride (186 mg, 0.54 mmol) at 0° C. under an atmosphere of Argon, and the mixture was stirred for 30 min. The reaction mixture was added 1.00 M Hydrochloric acid in (5.40 mL) at 23° C., and the resulting mixture was stirred for 16 h. The reaction mixture was quenched by addition of saturated NaHCO3 solution (80.0 mL) and extracted with ethyl acetate (3×100 mL). The organic layers were combined, dried over MgSO4, filtered, and evaporated under vacuum. The residue was purified via silica gel column chromatography eluting with a gradient of 0 to 10% methanol in DCM to afford the title compound (91.0 mg, 51%). 1H-NMR (400 MHz, CD3OD) cl: 8.01 (s, 1H), 7.25-7.13 (m, 4H), 5.72 (d, 1H, J=6.5 Hz), 5.65-5.58 (m, 1H), 4.43-4.38 (m, 1H), 4.33 (dd, 1H, J=9.7, 7.6 Hz), 4.22 (dt, 1H, J=5.0, 2.4 Hz), 4.16 (dd, 1H, J=9.7, 7.3 Hz), 3.35 (s, 3H), 3.14 (dd, 1H, J=16.6, 2.4 Hz), 3.02 (dd, 1H, J=16.6, 5.0 Hz), 2.60-2.49 (m, 1H), 2.31 (ddd, 1H, d=14.8, 6.8, 2.3 Hz), 2.12 (ddd, 1H, J=14.8, 5.0, 4.7), 2.08-1.95 (m, 2H). LC/MS: Rt=6.76, ES+ 469.3 (FA long).

reactant | {(1S,2S,4R)-2-{[tert-butyl(dimethyl)silyl]oxy}-4-[(5-fluoro-6-{[(1R,2S)-2-methoxy-2,3-dihydro-1H-inden-1-yl]amino}pyrimidin-4-yl)-oxy]cyclopentyl}methanol | 0.36 mmol, 190 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@@H](C[C@H](C1)OC1=NC=NC(=C1F)N[C@H]1[C@H](CC2=CC=CC=C12)OC)CO | C26H38FN3O4Si
reactant | triethylamine | 0.54 mmol, 0.08 mL | C(C)N(CC)CC | C6H15N
reactant | [(diphenylamino)carbonyl]sulfamoyl chloride | 0.54 mmol, 186 mg | C1(=CC=CC=C1)N(C(=O)NS(=O)(=O)Cl)C1=CC=CC=C1 | C13H11ClN2O3S
reactant | Hydrochloric acid | 1.00 M | Cl | ClH
solvent | THF | 5.40 mL | C1CCOC1 | C4H8O
product | {(1S,2S,4R)-4-[(5-fluoro-6-{[(1R,2S)-2-methoxy-2,3-dihydro-1H-inden-1-yl]amino}-pyrimidin-4-yl)oxy]-2-hydroxycyclopentyl}methyl sulfamate | 91.0 mg, 51% | S(N)(OC[C@H]1[C@H](C[C@@H](C1)OC1=NC=NC(=C1F)N[C@H]1[C@H](CC2=CC=CC=C12)OC)O)(=O)=O | C20H25FN4O6S
